### PR TITLE
[Merged by Bors] - feat(WithZero): `exp : ℤ → ℤᵐ⁰`, `log : ℤᵐ⁰ → ℤ`

### PR DESCRIPTION
**Pull request by YaelDillies**
In valuation theory, valuations have codomain `{0} ∪ {e ^ n | n : ℤ}`, which we can formalise as
`ℤₘ₀ := WithZero (Multiplicative ℤ)`. It is important to be able to talk about the maps
`n ↦ e ^ n` and `e ^ n ↦ n`. We define these as `exp : ℤ → ℤₘ₀` and `log : ℤₘ₀ → ℤ` with junk
value `log 0 = 0`. Junkless versions are defined as `expEquiv : ℤ ≃ ℤₘ₀ˣ` and `logEquiv : ℤₘ₀ˣ ≃ ℤ`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 1]
```diff
@@ -298,4 +298,87 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
   natCast_zero := rfl
   natCast_succ n := by cases n <;> simp
 
+/-!
+### Exponential and logarithm
+
+In valuation theory, valuations have codomain `{0} ∪ {e ^ n | n : ℤ}`, which we can formalise as
```
Comment (smmercuri) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:304]: nit: I would replace `e` with `x` or `c` or something like that, to emphasise that the choice of base need not be `e`, and same below

**Comment by smmercuri** [comment]
Nice, LGTM! @mariainesdff @faenuccio what do you think?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:304]: Good point!

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 2]
```diff
@@ -298,4 +298,86 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
   natCast_zero := rfl
   natCast_succ n := by cases n <;> simp
 
+/-!
+### Exponential and logarithm
+
+In valuation theory, valuations have codomain `{0} ∪ {c ^ n | n : ℤ}` for some `c > 1`, which we can
+ormalise as `ℤₘ₀ := WithZero (Multiplicative ℤ)`. It is important to be able to talk about the maps
```
Comment (smmercuri) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:305]:
```suggestion
formalise as `ℤₘ₀ := WithZero (Multiplicative ℤ)`. It is important to be able to talk about the maps
```

**Comment by faenuccio** [comment]
I think that perhaps this shuold be synced with #22415 and would benefit from inputs from @pechersky

**Comment by YaelDillies** [comment]
I did think about introducing the order isos that #22415 defines, so that I could then write `G ~=o G\_m\0^x` by composing `G ~=o G\_m ~=o G\_m\0^x`. But the issue is that we don't have `G ~=o G\_m` (although we really should) and even if we did it wouldn't golf the current definition since it's only two lines already.

Therefore #22415 is somewhat orthogonal to the current PR

**Comment by pechersky** [comment]
Could you please add shortcut lemmas about Units.mk0? Also, does it make sense to have the symm lemmas showing they're inverses for the MulOrderIso? What about the Galois connection/insertion/foo?

File: Mathlib/Algebra/GroupWithZero/Int.lean [hunk 3]
```diff
@@ -12,19 +12,17 @@ import Mathlib.Algebra.GroupWithZero.WithZero
...
 assert_not_exists Ring
 
-local notation "ℤₘ₀" => WithZero (Multiplicative ℤ)
+open Multiplicative
 
 namespace WithZero
 
-open Multiplicative
-
-theorem ofAdd_zpow (a : ℤ) : (↑(ofAdd a) : ℤₘ₀) = ofAdd (1 : ℤ) ^ a := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/GroupWithZero/Int.lean:21]: Why are we deprecating this

Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Int.lean:21]: 1. The name is definitely wrong.
2. It's the equivalent of `Algebra.algebraMap_eq_smul_one` I guess. Do you really care about keeping it?

Comment (eric-wieser) [reply Mathlib/Algebra/GroupWithZero/Int.lean:21]: I guess 1 is a good enough reason.

**Comment by YaelDillies** [comment]
> shortcut lemmas about Units.mk0

Not sure what you mean. Can you give an example?

> symm lemmas showing they're inverses for the MulOrderIso

Done, except that they are only `OrderIso`s, not `OrderMonoidIso`s (because one side is equipped with addition rather than multiplication)

> the Galois connection/insertion/foo?

It doesn't exist in reasonable ways due to the `log 0 = 0` junk value. `log_le_iff_le_exp`/`le_log_iff_exp_le`/the two order isos are the best we get.

> Do we want these functions to also work over Nm0, and thus, defined on AddMonoid?

Yes, good point. I have generalised.

**Comment by pechersky** [comment]
I was thinking about a Units mk0 lemmas for logEquiv_apply so that one couple rewrite backwards.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 4]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
   natCast_zero := rfl
   natCast_succ n := by cases n <;> simp
 
+/-!
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: Why not adding this (or a short version thereof, if needed) at the doc at the beginning of the file?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 5]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+### Exponential and logarithm
+
+In valuation theory, valuations have codomain `{0} ∪ {c ^ n | n : ℤ}` for some `c > 1`, which we can
+formalise as `ℤₘ₀ := WithZero (Multiplicative ℤ)`. It is important to be able to talk about the maps
+n ↦ c ^ n` and `c ^ n ↦ n`. We define these as `exp : ℤ → ℤₘ₀` and `log : ℤₘ₀ → ℤ` with junk value
+log 0 = 0`. Junkless versions are defined as `expEquiv : ℤ ≃ ℤₘ₀ˣ` and `logEquiv : ℤₘ₀ˣ ≃ ℤ`. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
`n ↦ c ^ n` and `c ^ n ↦ n`. We define these as `exp : ℤ → ℤₘ₀` and `log : ℤₘ₀ → ℤ` with junk
value log 0 = 0`. Junkless versions are defined as `expEquiv : ℤ ≃ ℤₘ₀ˣ` and `logEquiv : ℤₘ₀ˣ ≃ ℤ`. -/
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 6]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+
+variable {M G : Type*}
+
+section AddMonoid
+
+local notation "Mₘ" => Multiplicative G
+local notation "Mₘ₀" => WithZero Mₘ
+
+/-- The exponential map as a function `G → WithZero (Multiplicative G)`. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
/-- The exponential map as a function `G → Gₘ₀`. -/
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 7]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+def exp (a : G) : Mₘ₀ := .coe <| Multiplicative.ofAdd a
+
+variable [AddMonoid G]
+
+/-- The logarithm as a function `WithZero (Multiplicative G) → G` with junk value `log 0 = 0`. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
/-- The logarithm as a function `Gₘ₀ → G` with junk value `log 0 = 0`. -/
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 8]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+def log (x : Mₘ₀) : G := x.recZeroCoe 0 Multiplicative.toAdd
+
+@[simp] lemma log_exp (a : G) : log (exp a) = a := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: I'm not sure that all lemmas below should be `simp`. I would imagine that one might sometimes need computations with eg. `log (2 * n)`, and `simp` would be in your way.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 9]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+formalise as `ℤₘ₀ := WithZero (Multiplicative ℤ)`. It is important to be able to talk about the maps
+n ↦ c ^ n` and `c ^ n ↦ n`. We define these as `exp : ℤ → ℤₘ₀` and `log : ℤₘ₀ → ℤ` with junk value
+log 0 = 0`. Junkless versions are defined as `expEquiv : ℤ ≃ ℤₘ₀ˣ` and `logEquiv : ℤₘ₀ˣ ≃ ℤ`. -/
+
+variable {M G : Type*}
+
+section AddMonoid
+
+local notation "Mₘ" => Multiplicative G
+local notation "Mₘ₀" => WithZero Mₘ
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: What happened with `M ↔ G`?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 10]
```diff
@@ -397,14 +397,40 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
 instance instLinearOrderedCommGroupWithZero [CommGroup α] [LinearOrder α] [IsOrderedMonoid α] :
     LinearOrderedCommGroupWithZero (WithZero α) where
 
-end WithZero
+/-! ### Exponential and logarithm -/
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:400]: Why *four* hashes? Also, I think we would need the same also in the doc at the beginning and a reference to the construction in `WithZero` for readers/users landing here (and viceversa, btw: point here from that file).

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 11]
```diff
@@ -397,14 +397,40 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
...
+  lift x to Gₘ using hx; simpa [log, exp] using .rfl
 
-end MultiplicativeNotation
+lemma le_log_iff_exp_le {x : Gₘ₀} (hx : x ≠ 0) : a ≤ log x ↔ exp a ≤ x := by
+  lift x to Gₘ using hx; simpa [log, exp] using .rfl
+
+lemma lt_log_iff_exp_lt {x : Gₘ₀} (hx : x ≠ 0) : a < log x ↔ exp a < x := by
+  lift x to Gₘ using hx; simpa [log, exp] using .rfl
+
+/-- The exponential map as an order isomorphism between `G` and `(WithZero (Multiplicative G))ˣ`. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
/-- The exponential map as an order isomorphism between `G` and `(Gₘ₀)ˣ`. -/
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 12]
```diff
@@ -397,14 +397,40 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
...
+@[simps!] def expOrderIso : G ≃o Gₘ₀ˣ where
+  __ := expEquiv
+  map_rel_iff' := by simp [← Units.val_le_val]
+
+/-- The logarithm as an order isomorphism between `(WithZero (Multiplicative G))ˣ` and `G`. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
/-- The logarithm as an order isomorphism between `Gₘ₀ˣ` and `G`. -/
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 13]
```diff
@@ -397,14 +397,40 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
...
 
-end WithZero
+/-! ### Exponential and logarithm -/
+
+variable {G : Type*} [Preorder G] {a b : G}
+
+local notation "Gₘ" => Multiplicative G
+local notation "Gₘ₀" => WithZero Gₘ
+
+@[simp] lemma exp_le_exp : exp a ≤ exp b ↔ a ≤ b := by simp [exp]
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:404]: not sure useful as `simp`

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 14]
```diff
@@ -397,14 +397,40 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
...
+
+variable [AddGroup G]
 
-section MultiplicativeNotation
+@[simp] lemma log_le_log {x y : Gₘ₀} (hx : x ≠ 0) (hy : y ≠ 0) : log x ≤ log y ↔ x ≤ y := by
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: ditto

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 15]
```diff
@@ -397,14 +397,40 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
...
+  lift x to Gₘ using hx; lift y to Gₘ using hy; simp [log]
 
-/-- Notation for `WithZero (Multiplicative ℕ)` -/
-scoped[Multiplicative] notation "ℕₘ₀" => WithZero (Multiplicative ℕ)
+lemma log_le_iff_le_exp {x : Gₘ₀} (hx : x ≠ 0) : log x ≤ a ↔ x ≤ exp a := by
+  lift x to Gₘ using hx; simpa [log, exp] using .rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: this `.rfl` is a bit harsh for users/readers, can you expand it, here and in all following lemmas?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 16]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+
+/-- The exponential map as a function `G → WithZero (Multiplicative G)`. -/
+def exp (a : G) : Mₘ₀ := .coe <| Multiplicative.ofAdd a
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
def exp (a : G) : Mₘ₀ := coe <| Multiplicative.ofAdd a
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 17]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+
+@[simp] lemma exp_neg (a : G) : exp (-a) = (exp a)⁻¹ := rfl
+@[simp] lemma log_inv : ∀ (x : Gₘ₀), log x⁻¹ = -log x
+  | 0 => by simp
+  | (x : Gₘ) => rfl
+
+@[simp] lemma exp_zsmul (n : ℤ) (a : G) : exp (n • a) = exp a ^ n := rfl
+@[simp] lemma log_zpow (x : Gₘ₀) : ∀ n : ℤ, log (x ^ n) = n • log x
+  | (n : ℕ) => by simp
+  | .negSucc n => by simp
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]:
```suggestion
  | Int.negSucc n => by simp
```

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 18]
```diff
@@ -310,6 +310,91 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+  | 0, 0 => by simp
+  | 0, n + 1 => by simp
+  | (x : Mₘ), n => rfl
+
+end AddMonoid
+
+section AddGroup
+variable [AddGroup G]
+
+local notation "Gₘ" => Multiplicative G
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: Why do you want it `local` rather than `scoped` (we're in `WithZero`)?

File: Mathlib/Algebra/Group/Int/Defs.lean [hunk 19]
```diff
@@ -66,7 +66,11 @@ instance instAddGroup         : AddGroup ℤ         := by infer_instance
 instance instAddCommSemigroup : AddCommSemigroup ℤ := by infer_instance
 instance instAddSemigroup     : AddSemigroup ℤ     := by infer_instance
 
-set_option linter.style.commandStart true
+-- We want to use this lemma earlier than `_root_.nsmul_eq_mul`
```
Comment (faenuccio) [inline Mathlib/Algebra/Group/Int/Defs.lean]: Can you say more here? Clearly you've got in mind "the reason why I add `high` to this `simp` is that...", and this can be useful for newcomers, even more if you add a line saying what is really happening and provide an example of what would happen without it.

File: Mathlib/Algebra/Group/Defs.lean [hunk 20]
```diff
@@ -574,8 +574,8 @@ theorem npow_eq_pow (n : ℕ) (x : M) : Monoid.npow n x = x ^ n :=
 @[to_additive] lemma left_inv_eq_right_inv (hba : b * a = 1) (hac : a * c = 1) : b = c := by
   rw [← one_mul c, ← hba, mul_assoc, hac, mul_one b]
 
--- the attributes are intentionally out of order. `zero_smul` proves `zero_nsmul`.
-@[to_additive zero_nsmul, simp]
+-- We want to use `zero_nsmul` earlier than `zero_smul`
```
Comment (faenuccio) [inline Mathlib/Algebra/Group/Defs.lean]: As in the other `Defs` file, please add a comment about this priority; also, why is the additive called `zero_nsmul`? What does it actually do?

File: Mathlib/Algebra/Group/Defs.lean [hunk 21]
```diff
@@ -611,8 +611,8 @@ lemma pow_three' (a : M) : a ^ 3 = a * a * a := by rw [pow_succ, pow_two]
 @[to_additive three_nsmul]
 lemma pow_three (a : M) : a ^ 3 = a * (a * a) := by rw [pow_succ', pow_two]
 
--- the attributes are intentionally out of order.
-@[to_additive nsmul_zero, simp] lemma one_pow : ∀ n, (1 : M) ^ n = 1
+-- We want to use `nsmul_zero` earlier than `smul_zero`
```
Comment (faenuccio) [inline Mathlib/Algebra/Group/Defs.lean]: Same as above.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: This isn't global notation! Do you think it should be?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Sorry, I don't really see the point here. If you dislike anonymous dot notation, then you could petition for the FRO to remove it, or for mathlib to ban it, but I think in both cases it is here to stay and therefore I have no incentive to restrict its use

Comment (faenuccio) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Well, the incentive is "be kind to the newcomers". I have nothing against them in principle, but they make it very hard to understand which lemma is being used. I find them a sort of extreme golfing, that should on my opinion be restricted to limited cases. It is a stylistic remark, with which you are of course entitled to disagree.

Let me also say that with some lemmas (like here) it is better than with others (like `.rfl`) since those can really lead to a confusion ("Is `.rfl` a variant of the `rfl` tactic? What is going on"?) while here one can more easily search all `???.negSucc` lemmas and understand which one is being used.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 6 above)
Comment (faenuccio) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Well, it is introduced in the file and when reading the file it would be helpful to have coherent doc/code. That being said, I think it should at least be `scoped` in `Multiplicative` or in `WithZero` (or some combination thereof...) but `localised` seems too restrictive to me: I think it bears no risk of being mixed up with anything else.

Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: The issue is that this notation is seemingly unparseable without hardcoding the variable name: it has no leading token...

~~@kmill, is there any hope to make the type be variable in the notation?~~

~~In the meantime I've resolved all your other comments about this, to focus discussion here~~

EDIT: Yes, there is

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Whoops, fixed

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:404]: Why would it not be useful? The analogous lemma `Real.exp_le_exp` is simp

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: I could be convinced this one is less useful as a simp lemma, but it still pretty innocuous to have it

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:400]: Sorry, where? I only see `###` everywhere

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Yes, I tend to agree that distributivity lemmas are somewhat dubious as simp lemmas

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: Let's talk about this on Zulip if you really care

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: cf https://github.com/leanprover-community/mathlib4/pull/24977#discussion_r2179470784

File: Mathlib/Algebra/Group/Defs.lean (hunk 20 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Group/Defs.lean]: `zero_nsmul : 0 • a = 0`, as opposed to `nsmul_zero : a • 0 = 0` (`pow` and `nsmul` have their arguments swapped)

Comment (faenuccio) [reply Mathlib/Algebra/Group/Defs.lean]: 💡

File: Mathlib/RingTheory/DedekindDomain/SelmerGroup.lean [hunk 22]
```diff
@@ -1,4 +1,4 @@
-/-
+  /-
```
Comment (pechersky) [inline Mathlib/RingTheory/DedekindDomain/SelmerGroup.lean]: aberrant whitespace change

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 10 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:400]: Oh, my bad! I cannot count, visibly... sorry for the noise.

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 13 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:404]: True, but in my experience working with groups with zero `simp` fires too often in these cases. But I am not strict on this, do as you prefer.

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 12 above)
Comment (faenuccio) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: Why don't you want to use your notation in the doc?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 23]
```diff
@@ -310,6 +322,79 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+/-- The exponential map as an equivalence between `G` and `(Gᵐ⁰)ˣ`. -/
+def expEquiv : G ≃ (Gᵐ⁰)ˣ := Multiplicative.ofAdd.trans unitsWithZeroEquiv.symm.toEquiv
+
+/-- The logarithm as an equivalence between `(Gᵐ⁰)ˣ` and `G`. -/
+def logEquiv : (Gᵐ⁰)ˣ ≃ G := unitsWithZeroEquiv.toEquiv.trans Multiplicative.toAdd
+
+@[simp] lemma logEquiv_symm : (logEquiv (G := G)).symm = expEquiv := rfl
+@[simp] lemma expEquiv_symm : (expEquiv (G := G)).symm = logEquiv := rfl
+
+@[simp] lemma coe_expEquiv_apply (a : G) : expEquiv a = exp a := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:377]: Do you want `a` explicit here?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 24]
```diff
@@ -310,6 +322,79 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+
+@[simp] lemma logEquiv_apply (x : (Gᵐ⁰)ˣ) : logEquiv x = log x := by
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:379]: Same: `x` explicit?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 25]
```diff
@@ -310,6 +322,79 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+  obtain ⟨_ | a, _ | b, hab, hba⟩ := x
+  · cases hab
+  · cases hab
+  · cases hab
+  · rfl
+
+lemma logEquiv_unitsMk0 (x : Gᵐ⁰) (hx : x ≠ 0) : logEquiv (.mk0 x hx) = log x := logEquiv_apply _
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean]: Here I really think `x` should be implicit

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 26]
```diff
@@ -310,6 +322,79 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+
+lemma exp_sub (a b : G) : exp (a - b) = exp a / exp b := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:388]: Ditto

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 27]
```diff
@@ -310,6 +322,79 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+lemma log_div {x y : Gᵐ⁰} (hx : x ≠ 0) (hy : y ≠ 0) : log (x / y) = log x - log y := by
+  lift x to Multiplicative G using hx; lift y to Multiplicative G using hy; rfl
+
+lemma exp_neg (a : G) : exp (-a) = (exp a)⁻¹ := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:392]: Once more, make `a` implicit?

File: Mathlib/Algebra/GroupWithZero/WithZero.lean [hunk 28]
```diff
@@ -310,6 +322,79 @@ instance instAddMonoidWithOne [AddMonoidWithOne α] : AddMonoidWithOne (WithZero
...
+lemma log_inv : ∀ x : Gᵐ⁰, log x⁻¹ = -log x
+  | 0 => by simp
+  | (x : Multiplicative G) => rfl
+
+lemma exp_zsmul (n : ℤ) (a : G) : exp (n • a) = exp a ^ n := rfl
```
Comment (faenuccio) [inline Mathlib/Algebra/GroupWithZero/WithZero.lean:397]: Both here and below, I'd make `n` and `a` or `x` implicit, no?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 29]
```diff
@@ -397,14 +397,40 @@ instance instLinearOrderedCommMonoidWithZero [CommMonoid α] [LinearOrder α] [I
 instance instLinearOrderedCommGroupWithZero [CommGroup α] [LinearOrder α] [IsOrderedMonoid α] :
     LinearOrderedCommGroupWithZero (WithZero α) where
 
-end WithZero
+/-! ### Exponential and logarithm -/
+
+variable {G : Type*} [Preorder G] {a b : G}
+
+local notation "Gₘ" => Multiplicative G
+local notation "Gᵐ⁰" => WithZero Gₘ
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: I confess I am lost here: why for the "with zero" you want both `m` and `0` as exponent, whereas for Multiplicative you want `m` as subscript? Also, in GroupWithZero/WithZero, you scoped these (and rightly so, IMHO), but here they're just local notations. Can you explain the rationale?

**Review by faenuccio — COMMENTED** [review]
Thanks, I left some other, quite minor, stylistic comments but I think this is almost ready to go. My main "concern/question" is about some local notation G^{m0} that is elsewhere scoped.

**Review by faenuccio — COMMENTED** [review]
Thanks, I think this is almost ready to go. I left a couple of stylistic comments, my main concern/question is about a local notation G^{m0} that is scoped elsewhere.

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:377]: Yes, since it is a rewriting lemma

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean (hunk 29 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: Fixed

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 25 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean]: The reason for it to explicit is that
1. This is a rewriting lemma
2. `hx` won't need to be provided when rewriting forward

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 26 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:388]: This is a rewriting lemma

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:392]: This is a rewriting lemma

File: Mathlib/Algebra/GroupWithZero/WithZero.lean (hunk 28 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/WithZero.lean:397]: This is a rewriting lemma

**Comment by faenuccio** [comment]
Thank you very much. Hard work and very useful.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
